US07569578B2
(R)-1-(3-(Ethoxycarbonyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
A stirred solution of (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid (28.5 mg, 0.0471 mmol) in anhydrous diglyme (2.5 mL) was treated with ethyl 2-amino-2-(hydroxyimino)acetate (6.54 mg, 0.0495 mmol) and 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (0.49 mg, 0.0495 mmol) at room temperature. The mixture was stirred overnight at room temperature and then overnight at 110° C. After cooling to room temperature and removal of the solvent in vacuo, the crude compound was purified using preparative HPLC to afford a tan gum (11.2 mg, 34%). 1H-NMR (CDCl3, 400 MHz) δ 8.0 (s,1H), 7.58 (s, 1H), 7.57 (s, 1H), 7.46 (m, 1H), 7.30 (s,1H), 7.24-7.20 (m, 2H), 6.93 (s,1H), 6.17-6.15 (m, 1H), 5.71 (s, 2H), 4.50-4.48 (m, 2H), 4.29-4.20 (m, 2H), 3.65-3.55 (m, 2H), 3.40-3.38 (m, 2H), 3.20-2.81 (m, 4H), 2.59 (s, 3 h), 2.03-1.72 (m, 4H), 1.44-1.38 (m, 3H), 0.95-0.86 (m, 2H), −0.045 (s, 9H).

reactant | (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | 0.0471 mmol, 28.5 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C32H40N4O6Si
reactant | ethyl 2-amino-2-(hydroxyimino)acetate | 0.0495 mmol, 6.54 mg | NC(C(=O)OCC)=NO | C4H8N2O3
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 0.0495 mmol, 0.49 mg | Cl.CN(CCCN=C=NCC)C
solvent | diglyme | 2.5 mL | COCCOCCOC | C6H14O3
product | (R)-1-(3-(Ethoxycarbonyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 11.2 mg, 34% | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C1=NC(=NO1)C(=O)OCC | C36H44N6O7Si
